US04112236
Step B: Preparation of N-(4-Acetoxynonyl)methanesulfonamide
Sodium hydride (2 g., 0.083 mole) is suspended in benzene (60 ml.) and dimethylformamide (120 ml.). Methanesulfonamide (7.6 g., 0.08 mole) is added and the suspension is heated on the steam bath for two hours. After the mixture is cooled in an ice bath, 1-chloro-4-acetoxynonane (18.5 g., 0.084 mole) is added dropwise with stirring over one hour. The suspension is heated on the steam bath for twenty hours and separated between ethyl acetate and water. After being washed with water, the organic layer is dried over anhydrous magnesium sulfate. Evaporation of the ethyl acetate in vacuo and distillation through a short path column gives the title compound, 11.6 g. (52%), b.p. 182°-185° C./0.08 mm. Anal. Calcd. for C12H25NO4S: C, 51.58; H, 9.02; N, 5.01. Found: C, 52.33; H, 8.84; N, 4.91.

reactant | Sodium hydride | 0.083 mole, 2 g | [H-].[Na+]
reactant | Methanesulfonamide | 0.08 mole, 7.6 g | CS(=O)(=O)N | CH5NO2S
reactant | 1-chloro-4-acetoxynonane | 0.084 mole, 18.5 g | ClCCCC(CCCCC)OC(C)=O | C11H21ClO2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | N-(4-Acetoxynonyl)methanesulfonamide | C(C)(=O)OC(CCCNS(=O)(=O)C)CCCCC | C12H25NO4S
